US04723016
The procedure of Example 1 was followed using perfluorooctanesulfonyl fluoride (11.8 g, 23.5 mmol), lithium trimethylsilanolate (2.25 g, 23.4 mmol), and dry tetrahydrofuran (150 mL). The product, lithium perfluorooctanesulfonate (6.6 g, 55% yield), was isolated as a white solid by concentrating the filtrate under vacuum: 19F NMR (tetrahydrofuran) δ -81.2 (t, J=8.5 Hz, CF3 --, 3F), -114.6 (m, --CF2CO2⊕, 2 F), -120.6 (m, --CF2, 2F), -121.7 (m, CF2, 6F), -122.7 (m, CF2, 2F), -126.2 ppm (m, CF3CF2, 2F).

reactant | perfluorooctanesulfonyl fluoride | 23.5 mmol, 11.8 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
reactant | lithium trimethylsilanolate | 23.4 mmol, 2.25 g | C[Si]([O-])(C)C.[Li+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | lithium perfluorooctanesulfonate | 6.6 g, 55% yield | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[Li+] | InChI=1S/C8HF17O3S.Li/c9-1(10,3(13,14)5(17,18)7(21,22)23)2(11,12)4(15,16)6(19,20)8(24,25)29(26,27)28;/h(H,26,27,28);/q;+1/p-1
